US04672066
2-[(4-Acetyl-3-hydroxy-2-propylphenoxy)methyl]benzoic acid methyl ester was allowed to react with 1.0N sodium hydroxide according to the procedure of Example 70 and the product was purified by recrystallization from methanol to give 2-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]benzoic acid, the title compound, m.p. 216°-219°, in 85% yield. Analysis Calculated for C19H20O5 : C, 69.50; H, 6.14. Found: C, 69.39; H, 6.19.

reactant | 2-[(4-Acetyl-3-hydroxy-2-propylphenoxy)methyl]benzoic acid methyl ester | COC(C1=C(C=CC=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C20H22O5
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
product | 2-[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]benzoic acid | C(C)(=O)C1=C(C(=C(OCC2=C(C(=O)O)C=CC=C2)C=C1)CCC)O | C19H20O5
